US08981084B2
Thioacetamide (1.73 g, 23.03 mmol) was added to a solution of 2-bromo-1-(4-fluorophenyl)ethanone (5.0 g, 23.03 mmol) in ethanol (50 mL) and the reaction was refluxed at 70° C. for 4 h. The reaction mixture was then cooled to room temperature, neutralized to pH 7 with aqueous ammonia solution (20 ml), and extracted with ethyl acetate (200 mL). The combined extracts were washed with water (100 mL), dried over Na2SO4, and concentrated to provide 4-(4-fluorophenyl)-2-methylthiazole (4.0 g, 90%). 1H NMR (400 MHz, DMSO) δ 7.95-8.00 (m, 2H), 7.91 (s, 1H), 7.23-7.29 (m, 2H), 2.71 (s, 3H). MS (ESI) m/z: Calculated for C10H8FNS: 193.04. found: 194.0 (M+H)+

reactant | Thioacetamide | 23.03 mmol, 1.73 g | C(C)(=S)N | C2H5NS
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 23.03 mmol, 5.0 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(4-fluorophenyl)-2-methylthiazole | 4.0 g, 90% | FC1=CC=C(C=C1)C=1N=C(SC1)C | C10H8FNS
